US04960766
To a suspension of Vilsmeier reagent prepared from N,N-dimethylformamide (0.158 ml) and phosphoryl chloride (0.187 ml) in tetrahydrofuran (1 ml) was added a solution of 4-chloro-2-difluoromethoxyimino-3-oxobutyric acid (0.4 g) in tetrahydrofuran (4 ml) under ice-cooling with stirring. After stirred at the same temperature for 30 minutes, this activated acid solution was added to a solution of bis(trifluoroacetic acid) salt of 7β-amino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (0.80 g) and N-(trimethylsilyl)acetamide (2.9 g) in tetrahydrofuran (20 ml) under ice-cooling. The mixture was stirred at the same temperature for 1.5 hours. To the resultant mixture was added a solution of thiourea (230 mg) in N,N-dimethylacetamide (2.3 ml) at ambient temperature. After stirred at 30°-35° C. for 4 hours, the resultant solution was poured into a mixture of n-hexane (30 ml) and diisopropyl ether (50 ml). The precipitated mass was triturated in ethyl acetate and dried under reduced pressure. The dried glassy mass was dissolved in water (20 ml) and the aqueous solution was washed with ethyl acetate twice, adjusted to pH 2.0 with 5% aqueous sodium bicarbonate solution, and subjected to column chromatography on macroporous nonionic adsorption resin "Diaion HP-20". The column was washed with water and the object compound was eluted with 30% aqueous methanol. The fraction containing the object compound was concentrated under reduced pressure and the residue was lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer) (0.25 g).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphoryl chloride | 0.187 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-chloro-2-difluoromethoxyimino-3-oxobutyric acid | 0.4 g | ClCC(C(C(=O)O)=NOC(F)F)=O | C5H4ClF2NO4
reactant | 7β-amino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.80 g | N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O | C12H14N4O3S
reactant | N-(trimethylsilyl)acetamide | 2.9 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | thiourea | 230 mg | NC(=S)N | CH4N2S
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 2.3 ml | CN(C(C)=O)C | C4H9NO
solvent | n-hexane | 30 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 0.158 ml | CN(C=O)C | C3H7NO
product | 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.25 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC(F)F | C18H17F2N7O5S2
